US08314138B2
Part B. To a solution of 2-{5-[(E)-2-(4-fluoro-phenyl)-vinyl]-pyrazin-2-yl}-4-methyl-thiazole-5-carboxylic acid benzylamide (20 mg, 0.05 mmol, 1.0 equiv) in ethyl acetate/ethanol (1:1) was added Pd(OH)2 (10 mg, 20%). The flask was first purged with nitrogen, then with hydrogen. The reaction mixture was stirred at ambient temperature for 3 hr and monitored by LCMS. Upon completion, the reaction mixture was diluted with ethyl acetate, filtered through Celite and concentrated in vacuo. The crude product was purified by preparative HPLC (acetonitrile/water, 0.1% trifluoroacetic acid) to afford 2-{5-[2-(4-fluoro-phenyl)-ethyl]-pyrazin-2-yl}-4-methyl-thiazole-5-carboxylic acid benzylamide (13 mg, 65%). 1H NMR (400 MHz, CD2Cl2) δ 9.27 (s, 1H), 8.27 (s, 1H), 7.27-7.35 (m, 5H), 7.12-7.15 (m, 2H), 6.92-6.96 (m, 2H), 6.19 (bs, 1H), 4.58 (d, J=4.0 Hz, 2H), 3.05-3.16 (m, 4H), 2.72 (s, 3H); HRMS (M+H)+=433.15.

reactant | 2-{5-[(E)-2-(4-fluoro-phenyl)-vinyl]-pyrazin-2-yl}-4-methyl-thiazole-5-carboxylic acid benzylamide | 0.05 mmol, 20 mg, 1.0 equiv | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)C1=NC=C(N=C1)\C=C\C1=CC=C(C=C1)F)C | C24H19FN4OS
solvent | ethyl acetate ethanol | C(C)(=O)OCC.C(C)O
catalyst | Pd(OH)2 | 10 mg | [OH-].[OH-].[Pd+2]
product | 2-{5-[2-(4-fluoro-phenyl)-ethyl]-pyrazin-2-yl}-4-methyl-thiazole-5-carboxylic acid benzylamide | 13 mg, 65% | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)C1=NC=C(N=C1)CCC1=CC=C(C=C1)F)C | C24H21FN4OS
